US08003663B2
5-Amino-1-ethylpyrazole (5.85 g, 0.0526 moles, 1.06 equivalents) was added in one portion to 31.35 g of a solution at room temperature, wherein the solution is of diethyl (1-chloro-1-propen-1-yl)propanedioate and/or diethyl (1-chloropropylidene)propanedioate (about 11.65 g, 0.0496 moles, 1.0 equivalent) in toluene (about 19.70 g). Triethylamine (14 ml, 10.05 g, 0.0993 moles, 2.0 equivalents) was added slowly to the reaction mixture ensuring Tint<30° C. by use of an ice bath. The reaction mixture was then heated at 90° C. for approximately 15.5 hours and then was allowed to cool to room temperature. The reaction mixture was filtered, the filter cake washed with toluene (23 ml), and then the filter cake was pulled dry. Toluene (12 ml) was added to the filtrate, and the solution was concentrated in vacuo to about 55 ml volume. Toluene (12 ml) was added to the solution which was then concentrated down to about 55 ml, and this toluene (12 ml) addition and evaporation was repeated. The toluene solution (about 55 ml) washed with 2M aqueous sodium hydroxide solution (55 ml), and the two layers were separated. The organic layer was concentrated to dryness to yield diethyl {1-[(1-ethyl-1H-pyrazol-5-yl)amino]propylidene}propanedioate as a brown liquid (11.11 g, about 72% theory yield). HPLC (5 min generic solvent gradient): TRET about 3.05. Mass Spectrum: Found: MH+ 310.1, (M-H)− 308.1.

reactant | 5-Amino-1-ethylpyrazole | 0.0526 moles, 5.85 g, 1.06 equivalents | NC1=CC=NN1CC | C5H9N3
reactant | diethyl (1-chloro-1-propen-1-yl)propanedioate | ClC(=CC)C(C(=O)OCC)C(=O)OCC | C10H15ClO4
reactant | diethyl (1-chloropropylidene)propanedioate | 0.0496 moles, about 11.65 g, 1.0 equivalent | ClC(CC)=C(C(=O)OCC)C(=O)OCC | C10H15ClO4
reactant | Triethylamine | 0.0993 moles, 14 ml, 10.05 g, 2.0 equivalents | C(C)N(CC)CC | C6H15N
solvent | toluene | about 19.70 g | C1(=CC=CC=C1)C | C7H8
product | diethyl {1-[(1-ethyl-1H-pyrazol-5-yl)amino]propylidene}propanedioate | C(C)N1N=CC=C1NC(CC)=C(C(=O)OCC)C(=O)OCC | C15H23N3O4
